US04072681
20.5 g. of 4-amino-1-ethylpyrazolo[3,4-b]pyridin-5-carboxamide are refluxed with stirring for 24 hours with 100 ml. of triethyl orthoformate. The excess ester is removed in vacuo and the residue recrystallized from dimethylformamide to obtain 7-ethyl-1,7-dihydro-4H-pyrazolo[4',3':5,6]pyrido[4,3-d]pyrimidin-4-one, yield: 19 g. (88%); m.p. 320°-322°.

reactant | 4-amino-1-ethylpyrazolo[3,4-b]pyridin-5-carboxamide | NC1=C2C(=NC=C1C(=O)N)N(N=C2)CC | C9H11N5O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 7-ethyl-1,7-dihydro-4H-pyrazolo[4',3':5,6]pyrido[4,3-d]pyrimidin-4-one | C(C)N1N=CC2=C1N=CC1=C2NC=NC1=O | C10H9N5O
